US06124330
The following reaction was performed under a N2 atmosphere. A mixture of N-(4-bromophenyl)-2-benzothiazolamine (0.492 mol) in THF (2700 ml) was stirred at -70° C. Butyllithium (0.984 mol; 2.5 M in hexane) was added dropwise at -65° C. The mixture was stirred for one hour. A solution of 2-ethyl-butanal (0.492 mol) in THF (300 ml) was added dropwise at -75° C. The mixture was allowed to warm to RT overnight. A 10% aqueous NH4Cl solution (3000 ml) was added and the mixture was stirred for 15 minutes. The separated aqueous phase was extracted with EtOAc (1000 ml). The separated organic layer was dried, filtered and the solvent evaporated. The residue was crystallized from methyl isobutyl keton. The precipitate was filtered off and dried, yielding 109 g (68%) of (±)-4-(2-benzothiazolylamino)-α-(1-ethylpropyl)benzenemethanol (interm 28).

reactant | N-(4-bromophenyl)-2-benzothiazolamine | 0.492 mol | BrC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C13H9BrN2S
reactant | Butyllithium | 0.984 mol, 2.5 M | C(CCC)[Li]
reactant | 2-ethyl-butanal | 0.492 mol | C(C)C(C=O)CC | C6H12O
reactant | NH4Cl | 3000 ml | [NH4+].[Cl-]
solvent | THF | 2700 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | (±)-4-(2-benzothiazolylamino)-α-(1-ethylpropyl)benzenemethanol | 109 g, 68% | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C(O)C(CC)CC | C19H22N2OS
